US06818780B2
Preparation of 3-(4-methoxyphenyl)-propanal
2.34 g (14.10 mmoles) of 3-(4-methoxyphenyl)-1-propanol were dissolved in 20 ml of dry dichloromethane and slowly added to a suspension of 4.56 g (21.15 mmoles) of pyridinium chlorochromate in 25 ml of dichloromethane. Once the reaction was completed, which was followed by thin layer chromatography, 3 ml of diethyl ether were added in portions and the mixture was filtered over celite. The ether phase was washed three times with water and left to dry over anhydrous sodium sulphate for an entire night. The 3-(4-methoxyphenyl)-propanal was purified by column chromatography using as eluent ethyl acetate: dichloromethane in increasing polarity, with 1.20 g of an oil being obtained (52% yield).

reactant | 3-(4-methoxyphenyl)-1-propanol | 14.10 mmoles, 2.34 g | COC1=CC=C(C=C1)CCCO | C10H14O2
reactant | pyridinium chlorochromate | 21.15 mmoles, 4.56 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-(4-methoxyphenyl)-propanal | 1.20 g, 52% yield | COC1=CC=C(C=C1)CCC=O | C10H12O2
